US06703387B2
To a solution of 1.19 g (7.77 mmol) of 1-(5-amino-2-fluorophenyl)ethanone in 18 ml of dry tetrahydrofuran at room temperature under an atmosphere of nitrogen was added 1.86 g (8.54 mol) of tert-butyl dicarbonate. The solution was stirred for 28 hours at room temperature followed by 17 hours at 45° C., cooled to room temperature and evaporated under reduced pressure. The residue was dissolved in ethyl acetate and the solution washed with sodium bicarbonate solution, dried over magnesium sulphate, evaporated to dryness and the residue chromatographed on silica gel using ethyl acetate/petrol 4:1 for the elution. There was obtained 1.45 g of (3-acetyl-4-fluorophenyl)carbamic acid tert-butyl ester MS: m/e 271 [M+CH3CN]+.

reactant | 1-(5-amino-2-fluorophenyl)ethanone | 7.77 mmol, 1.19 g | NC=1C=CC(=C(C1)C(C)=O)F | C8H8FNO
reactant | tert-butyl dicarbonate | 8.54 mol, 1.86 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | (3-acetyl-4-fluorophenyl)carbamic acid tert-butyl ester | 1.45 g | C(C)(C)(C)OC(NC1=CC(=C(C=C1)F)C(C)=O)=O | C13H16FNO3
